US06632811B2
Synthesis of N-(3,5-difluorophenyl)alanine iso-butyl ester
Following General Procedure AH above and using N-(3,5-difluorophenyl)alanine (from Example AC above) and iso-butanol, the title compound was prepared as an oil. The reaction was monitored by tlc on silica gel (Rf=0.9 in 3% methanol/methylene chloride) and purification was by preparative plate chromatography (silica gel using 3% methanol/methylene chloride as the eluant).

reactant | N-(3,5-difluorophenyl)alanine | FC=1C=C(C=C(C1)F)N[C@@H](C)C(=O)O | C9H9F2NO2
reactant | iso-butanol | C(C(C)C)O | C4H10O
product | N-(3,5-difluorophenyl)alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC1=CC(=CC(=C1)F)F)C)=O | C13H17F2NO2
